US07582631B2
(S)-[4-(3-Chloro-indazol-1-yl)-pyridin-2-yl]-(1-phenyl-ethyl)-amine
To a solution of 3-chloro-1-(2-chloro-pyridin-4-yl)-1H-indazole (0.29 g, 1.1 mmol) in toluene (6 mL) under nitrogen were added palladium acetate (0.025 g, 0.11 mmol), rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.069 g, 0.1 mmol), and (S)-(−)-α-methylbenzylamine (0.18 mL, 1.38 mmol), followed by sodium t-butoxide (0.3 g, 3.1 mmol). The resulting mixture was heated at 70° C. for 1 h, during which TLC and HPLC indicated completion of reaction. After cooling to room temperature, the reaction was diluted with methylene chloride and washed with saturated sodium bicarbonate and brine and dried over MgSO4. Flash chromatography of the crude product mixture with 25:10:65, 35:10:55, and 50:10:40 EtOAc-CH2Cl2-hexane gave the title compound as a tan colored solid. MS (ES+): 349.3 [M+H]+, 347.1 [M−H]−.

reactant | 3-chloro-1-(2-chloro-pyridin-4-yl)-1H-indazole | 1.1 mmol, 0.29 g | ClC1=NN(C2=CC=CC=C12)C1=CC(=NC=C1)Cl | C12H7Cl2N3
reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.1 mmol, 0.069 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | (S)-(−)-α-methylbenzylamine | 1.38 mmol, 0.18 mL | C[C@@H](C1=CC=CC=C1)N | C8H11N
reactant | sodium t-butoxide | 3.1 mmol, 0.3 g | CC(C)([O-])C.[Na+]
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | palladium acetate | 0.11 mmol, 0.025 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (S)-[4-(3-Chloro-indazol-1-yl)-pyridin-2-yl]-(1-phenyl-ethyl)-amine | ClC1=NN(C2=CC=CC=C12)C1=CC(=NC=C1)N[C@@H](C)C1=CC=CC=C1 | C20H17ClN4
